US06831084B1
(R)-[1-(Phenylmethyl)-2-[4-(2-methoxyphenyl)-1-piperazinyl]-2-oxo-ethyl]-carbamic acid tert-butyl ester.
To a 0° C. solution of D-phenylalanine-N-t-butoxy-carboxamide (10.0 g, 37.7 mmol), 1-hydroxybenzotriazole (8.66 g, 64.1 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (7.20 g, 37.7 mmol) in dry dimethylformamide (50 mL) under a nitrogen atmosphere, was added 1-(2-methoxyphenyl)-piperazine (9.50 g, 41.5 mmol), followed by N-methylmorpholine (7.62 g, 75.4 mmol). The resulting mixture was stirred under nitrogen overnight, during which time it came up to room temperature. The reaction mixture was diluted with ethyl acetate and then washed with 0.1 N aqueous HCl, saturated aqueous sodium bicarbonate and saturated sodium chloride solution. The combined organic layers dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield the desired product (16.57 g, 99% yield) as a yellow oil which was pure enough to use without further purification: [α-D]25=−9.0 (c=1, MeOH); MS m/z=439 (M+).

reactant | D-phenylalanine N-t-butoxy-carboxamide | 37.7 mmol, 10.0 g | N[C@H](CC1=CC=CC=C1)C(=O)O.C(C)(C)(C)ONC=O
reactant | 1-hydroxybenzotriazole | 64.1 mmol, 8.66 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 37.7 mmol, 7.20 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-(2-methoxyphenyl)-piperazine | 41.5 mmol, 9.50 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | N-methylmorpholine | 75.4 mmol, 7.62 g | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-[1-(Phenylmethyl)-2-[4-(2-methoxyphenyl)-1-piperazinyl]-2-oxo-ethyl]-carbamic acid tert-butyl ester | 16.57 g, 99% yield | C(C)(C)(C)OC(N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CC1=CC=CC=C1)=O | C25H33N3O4
